US07956064B2
2-acetamido-4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid (102 mg, 0.34 mmol) was stirred at 120° C. in aqueous 6N HCl overnight. Water was added and the compound was filtered and dried to provide 2-amino-4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid as a black solid (76 mg, 86% yield). LCMS (ES): 95% pure, m/z 262 [M+1]+, 1H NMR (DMSO-d6, 400 MHz) δ 7.60 (d, J=8.4, 1H), 7.70 (dd, J=1.2, J=8.0, 1H), 7.99 (d, J=1.2, 1H), 11.94 (s, 1H) ppm.

reactant | 2-acetamido-4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid | 0.34 mmol, 102 mg | C(C)(=O)NC=1SC2=C(C(NC=3C=C(C=CC23)C(=O)O)=O)N1 | C13H9N3O4S
reactant | HCl | 6N | Cl | ClH
solvent | Water | O | H2O
product | 2-amino-4-oxo-4,5-dihydrothiazolo[4,5-c]quinoline-7-carboxylic acid | 76 mg, 86% yield | NC=1SC2=C(C(NC=3C=C(C=CC23)C(=O)O)=O)N1 | C11H7N3O3S
